US09034866B2
Synthesis of 10-[(7-hydroxy-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl)ethynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
The title compound was prepared similarly according to Procedure E by reacting 10-bromo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide with 7-ethynyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-ol. 1H NMR (500 MHz, DMSO) δ 2.30-2.43 (1H, m), 2.54-2.61 (1H, m), 2.83-2.95 (1H, m), 2.96-3.07 (1H, m), 4.49 (4H, s), 6.21 (1H, br. s.), 7.03 (1H, d, J=8.51 Hz), 7.14 (1H, br. s.), 7.24-7.36 (2H, m), 7.57 (1H, br. s.), 7.73 (1H, d, J=7.41 Hz), 7.80 (1H, s), 8.46 (1H, d, J=4.26 Hz), 8.53 (1H, d, J=2.05 Hz); LC-MS: m/z=387.10 (M+H)+.

reactant | 10-bromo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1 | C12H10BrN3O2
reactant | 7-ethynyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-ol | C(#C)C1(CCC=2C1=NC=CC2)O | C10H9NO
product | 10-[(7-hydroxy-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl)ethynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | OC1(CCC=2C1=NC=CC2)C#CC=2C=CC1=C(C=3N(CCO1)C=C(N3)C(=O)N)C2 | C22H18N4O3
